US06329381B1
6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethyl]aminopurine
6-Amino-9-benzyl-8-bromo-2-(2-methoxyethyl)aminopurine (68 mg, 0.18 mmol) was dissolved in 28% sodium methoxide in methanol (30 ml) and the solution was refluxed on heating under stirring for 4 hours. The reaction mixture was concentrated in vacuo to dryness and to the residue was added water. The mixture was extracted with chloroform and the organic layer was dried on sodium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (26 mg, yield 44%).

reactant | 6-Amino-9-benzyl-8-bromo-2-(2-methoxyethyl)aminopurine | 0.18 mmol, 68 mg | NC1=C2N=C(N(C2=NC(=N1)NCCOC)CC1=CC=CC=C1)Br | C15H17BrN6O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethyl]aminopurine | 26 mg, yield 44% | NC1=C2N=C(N(C2=NC(=N1)NCCOC)CC1=CC=CC=C1)OC | C16H20N6O2
